US08202865B2
Step 2: Ethyl 3-amino-4-(2-methylpiperidin-1-yl)benzoate
Ethyl 4-(2-methylpiperidin-1-yl)-3-nitrobenzoate (5 g; 17.10 mmol; 1 eq.) in a solution of MeOH/EtOAc 1:1 (340 mL, 0.05 M) was injected on a flow hydrogenation reactor (H-Cube), adapted with a Pd/C cartridge (44 mm), a flow of 1 mL/min, no heating and the full H2 option enabled, affording after evaporation of the solvents the title compound as a white solid (4.34 g, 96%). 1H NMR (DMSO-d6, 300 MHz) δ 7.34-7.33 (d, 1H), 7.21-7.18 (dd, J=8.28 Hz, 1.81 Hz, 1H), 7.06-7.03 (d, J=8.18 Hz 1H), 5.09 (br s, 2H), 4.28-4.26 (q, J=7.43 Hz, 2H), 3.11-3.07 (m, 1H), 2.97-2.88 (m, 1H), 2.47-2.3 (m, 1H), 1.83-1.65 (m, 6H), 1.32 (t, J=7.43 Hz, 3H). LC/MS (Method B): 263.2 (M+H)+. HPLC (Method A) Rt 2.60 min (Purity: 97.8%).

reactant | Ethyl 4-(2-methylpiperidin-1-yl)-3-nitrobenzoate | 17.10 mmol, 5 g, 1 eq. | CC1N(CCCC1)C1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C15H20N2O4
catalyst | Pd/C | [Pd] | Pd
solvent | MeOH EtOAc | 0.05 M, 340 mL | CO.CCOC(=O)C
product | Ethyl 3-amino-4-(2-methylpiperidin-1-yl)benzoate | NC=1C=C(C(=O)OCC)C=CC1N1C(CCCC1)C | C15H22N2O2
